US07211672B2
(±)-Cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide was prepared from (±)-cis-N-[2-methylmethyl-1-(4-nitro-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide. (±)-Cis-N-[2-methyl-1-(4-nitro-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide (200 mg, 0.45 mmol) was dissolved in ethanol (20 mL). Palladium on carbon (10%) was carefully added and the resulting suspension was shaken under hydrogen gas (40 psi) over night. The suspension was filtered through Celite® to remove solids, and the filter cake washed three times with ethanol. Concentration of the solution afforded pure product (160 mg, 86%).

reactant | (±)-Cis-N-[2-methyl-1-(4-nitro-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | 0.45 mmol, 200 mg | C[C@@H]1N(C2=CC=CC=C2[C@@H](C1)N(C(CC)=O)C1=CC=CC=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C26H25N3O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | [Pd] | Pd
product | (±)-Cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | NC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(CC)=O)C2=CC=CC=C2)C)C=C1 | C26H27N3O2
